US07910740B2
N—((S)-1-{2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-3-methyl-butyl)-C-phenyl-methanesulfonamide
The title compound was prepared in analogy to example 36 from 96 mg (0.2 mmol) [4-((S)-1-amino-3-methyl-butyl)-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine trihydrochloride and 39 mg (0.2 mmol) alpha-toluenesulphonylchloride. The crude product was purified on silica gel with methylene chloride/methanol 19/1 yielding 40 mg (38%) N—((S)-1-{2-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-3-methyl-butyl)-C-phenyl-methanesulfonamide as a light yellow solid. MS ISP (m/e): 525.9 (100) (M+H)+. 1H NMR (DMSO-D6, 250 MHz): δ (ppm)=10.48 (s, 1H), 7.97 (s, 1H), 7.65 (s, 1H), 7.60 (d, 1H), 7.26-7.21 (m, 6H), 7.06 (d, 1H), 7.03 (s, 1H), 4.39 (q, 1H), 4.13 (d, 1H), 4.03 (d, 1H), 3.83 (s, 3H), 2.14 (s, 3H), 1.69 (m, 2H), 1.56 (m, 1H), 0.86 (d, 6H).

reactant | [4-((S)-1-amino-3-methyl-butyl)-thiazol-2-yl]-[3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-amine trihydrochloride | 0.2 mmol, 96 mg | Cl.Cl.Cl.N[C@@H](CC(C)C)C=1N=C(SC1)NC1=CC(=C(C=C1)N1C=NC(=C1)C)OC
reactant | alpha-toluenesulphonylchloride | 0.2 mmol, 39 mg | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
product | N—((S)-1-{2-[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenylamino]-thiazol-4-yl}-3-methyl-butyl)-C-phenyl-methanesulfonamide | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC=C(N1)[C@H](CC(C)C)NS(=O)(=O)CC1=CC=CC=C1 | C26H31N5O3S2
